US07776869B2
To a mixture of 3-iodo-4-methyl-N-(3-((4-methylpiperazin-1-yl)methyl)-5-(trifluoromethyl)phenyl)benzamide (951 mg, 1.84 mmol), PdCl2(PPh3)2 (65 mg, 0.092 mmol) in MeCN (75 mL) and Et3N (20 mL) at room temperature was added trimethylsilylacetylene (0.8 mL, 5.52 mmol) followed by CuI (18 mg, 0.092 mmol). The resulting mixture was allowed to stir at room temperature for 2 h at which time the reaction mixture was concentrated under reduced pressure followed by reconstitution in MeOH (100 mL). To this mixture was added enough K2CO3 to saturate the mixture and the mixture was allowed to stir for about 1.5 h. The mixture was filtered through a pad of Celite. To the filtrate was added silica gel (˜20 mL) and the mixture was concentrated under reduced pressure, and purified via automated flash chromatography (silica gel, 0% to 15% MeOH in CH2Cl2, gradient elution) to afford 3-ethynyl-4-methyl-N-(3-((4-methylpiperazin-1-yl)methyl)-5-(trifluoromethyl)phenyl)benzamide.

reactant | 3-iodo-4-methyl-N-(3-((4-methylpiperazin-1-yl)methyl)-5-(trifluoromethyl)phenyl)benzamide | 1.84 mmol, 951 mg | IC=1C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)CN2CCN(CC2)C)C=CC1C | C21H23F3IN3O
reactant | trimethylsilylacetylene | 5.52 mmol, 0.8 mL | C[Si](C)(C)C#C | C5H10Si
solvent | MeCN | 75 mL | CC#N | C2H3N
solvent | Et3N | 20 mL | CCN(CC)CC | C6H15N
catalyst | PdCl2(PPh3)2 | 0.092 mmol, 65 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.092 mmol, 18 mg | [Cu]I
product | 3-ethynyl-4-methyl-N-(3-((4-methylpiperazin-1-yl)methyl)-5-(trifluoromethyl)phenyl)benzamide | C(#C)C=1C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)CN2CCN(CC2)C)C=CC1C | C23H24F3N3O
